* Plot 7: Current Limit — PVDD vs Iload (transient PWL ramp)
* Uses transient sweep to avoid bi-stable equilibrium problems with .dc
.title Plot7 Current Limit Transient

.param mc_mm_switch = 0
.param MC_MM_SWITCH = 0
.subckt sky130_fd_pr__model__parasitic__res_po r0 r1 sub w=1 l=1
c0 r0 sub {0.1e-15*w*l}
c1 r1 sub {0.1e-15*w*l}
.ends sky130_fd_pr__model__parasitic__res_po
.lib "../sky130.lib.spice" tt

.include ../00_error_amp/design.cir
.include ../01_pass_device/design.cir
.include ../02_feedback_network/design.cir
.include ../03_compensation/design.cir
.include ../04_current_limiter/design.cir
.include ../05_uv_ov_comparators/design.cir
.include ../06_level_shifter/design.cir
.include ../07_zener_clamp/design.cir
.include ../08_mode_control/design.cir
.include ../09_startup/design.cir
.include design.cir

* Supplies — BVDD ramps 0→7V in 10us to trigger proper startup sequencing
Vbvdd bvdd 0 PWL(0 0 10u 7 200m 7)
Vavbg avbg 0 1.226
Iibias 0 ibias 1u
Vsvdd svdd 0 2.2
Ven en 0 PWL(0 0 0.5u 0 1u 2.2)
Ven_ret en_ret 0 0

* Load: PWL current source
* 0-20ms: no load (let regulator start up and settle, soft-start tau=1ms)
* 20ms-120ms: ramp 0 to 500mA over 100ms (5 A/s ramp rate)
* Ramp rate slow enough for regulation loop to track
Iload pvdd 0 PWL(0 0 20m 0 120m 500m)

* DUT
XDUT bvdd pvdd 0 avbg ibias svdd en en_ret uv_flag ov_flag startup_done pvdd_regulator

.option gmin=1e-10 method=gear reltol=1e-3 abstol=1e-10 vntol=1e-4
.ic V(pvdd)=0 V(bvdd)=0
.tran 100u 120m uic

.control
run
set filetype = ascii
wrdata plot7_pvdd.dat v(pvdd)
echo "Plot 7 data saved"
quit
.endc
.end
